US09216993B2
201 mg of trans-4-azido-1-benzylpiperidin-3-ol (0.87 mmol) was dissolved in 3 ml of EtOH-water 3:1. To that solution 77 mg of zinc (12 mmol), 112 mg of ammonium chloride (2.1 mmol) were added and heterogeneous mixture was refluxed for 10 minutes. After cooling down reaction mixture was diluted with 8 mL of ethyl acetate and 0.5 mL of conc. ammonia in water, filtered off. Organic layer washed with brine, dried over sodium sulfate and evaporated. The residue was purified on silica gel column using DCM:MeOH 10:1 as eluent affording 120 mg of trans-4-amino-1-benzylpiperidin-3-ol.

reactant | trans-4-azido-1-benzylpiperidin-3-ol | 0.87 mmol, 201 mg | N(=[N+]=[N-])[C@H]1[C@@H](CN(CC1)CC1=CC=CC=C1)O | C12H16N4O
reactant | ammonium chloride | 2.1 mmol, 112 mg | [Cl-].[NH4+]
solvent | EtOH water | 3 ml | CCO.O
solvent | ethyl acetate | 8 mL | C(C)(=O)OCC | C4H8O2
solvent | ammonia | 0.5 mL | N | H3N
solvent | water | O | H2O
catalyst | zinc | 12 mmol, 77 mg | [Zn] | Zn
product | trans-4-amino-1-benzylpiperidin-3-ol | 120 mg | N[C@H]1[C@@H](CN(CC1)CC1=CC=CC=C1)O | C12H18N2O
